US07230020B2
Reaction of 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in THF (1.5 mL) with 4-propylbenzoyl chloride (90 μL, 0.56 mmol) in presence of triethylamine (0.5 mL) according to method A gave N-(4-Chloro-2-methyl-benzothiazol-5-yl)-4-propyl-benzamide (44 mg, 0.13 mmol, 52% yield) as a orange powder after crystallisation in hexane and methanol.

reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | 4-propylbenzoyl chloride | 0.56 mmol, 90 μL | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(4-Chloro-2-methyl-benzothiazol-5-yl)-4-propyl-benzamide | 0.13 mmol, 44 mg, 52% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(C2=CC=C(C=C2)CCC)=O | C18H17ClN2OS
